* D:\VUB\MA1\Analog Electronics\final project\LTSpice\final_project.asc
vdd N001 0 1.1
vcm N006 0 0.6
E1 vinn N006 N006 vinp 1
V1 vinp N006 SINE(0 100u 1k) AC 10m
Mp8 N002 N002 N001 N001 p_11_sprvt l=500n w=5u
Mp7 N003 N002 N001 N001 p_11_sprvt l=58.9n w=5u
Mp1 N005 vinn N003 N003 p_11_sprvt l=1000n w=10u
Mp2 vinter vinp N003 N003 p_11_sprvt l=1000n w=10u
Mn4 vinter N005 0 0 n_11_sprvt l=500n w=5u
Mn3 N005 N005 0 0 n_11_sprvt l=500n w=5u
Mn6 vout vinter 0 0 n_11_sprvt l=60n w=600n
Mp5 vout N002 N001 N001 p_11_sprvt l=500n w=5u
Rm vout N004 1000
Cm N004 vinter 1.25p
Ibias N002 0 1.414e-07
Cload vout 0 5p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\warre\Documents\LTspiceXVII\lib\cmp\standard.mos
.include BSIM4_UMC65.lib
.op
.ac dec 20 1k 100G
.backanno
.end
